US07323467B2
1.3 N,N-dimethyl-3-[6-fluoro-2-(methoxycarbonyl)-1-methyl-1H-indol-3-yl]-3-oxopropanamide
A stream of gaseous dimethylamine is passed into a mixture of 13 g (44.4 mmol) of methyl 3-[6-fluoro-2-(methoxycarbonyl)-1-methyl-1H-indol-3-yl]-3-oxo-propanoate, obtained in step 1.2., and 0.2 g (1.63 mmol) of 4-(N,N-dimethyl)aminopyridine in 80 ml of toluene. Immediately a condenser, surmounted by a balloon flask, is fitted and the solution is stirred at 100° C. for 20 h. The mixture is cooled to ambient temperature and concentrated under reduced pressure. 200 ml of dichloromethane, water and hydrochloric acid (1N) are added. The organic phase is separated off, washed with water, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue is purified by chromatography on a silica gel column (eluent: cyclohexane/dichloromethane: 50/50, then dichloromethane/ethyl acetate 100/0 to 0/100).

reactant | dimethylamine | CNC | C2H7N
reactant | methyl 3-[6-fluoro-2-(methoxycarbonyl)-1-methyl-1H-indol-3-yl]-3-oxo-propanoate | 44.4 mmol, 13 g | FC1=CC=C2C(=C(N(C2=C1)C)C(=O)OC)C(CC(=O)OC)=O | C15H14FNO5
catalyst | 4-(N,N-dimethyl)aminopyridine | 1.63 mmol, 0.2 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-dimethyl-3-[6-fluoro-2-(methoxycarbonyl)-1-methyl-1H-indol-3-yl]-3-oxopropanamide | CN(C(CC(=O)C1=C(N(C2=CC(=CC=C12)F)C)C(=O)OC)=O)C | C16H17FN2O4
